US08937185B2
To a solution of 5-amino-1-(2-chloro-6-fluoro-4-(trifluoromethyl)phenyl)-4-(trifluoromethylsulfinyl)-1H-pyrazole-3-carbonitrile (130 g, 310.3 mmol, 1.00 eq.) in CHBr3 (520 mL) was added dropwise isoamyl nitrite (109 g, 930.8 mmol, 3.00 eq.) at 55˜60° C. After all the isoamyl nitrite was added, the solution was stirred at 60° C. for 30 min. Then the mixture was concentrated under vacuum to give red solid. The solid was recrystallized with isopropyl alcohol to give 5-bromo-1-(2-chloro-6-fluoro-4-(trifluoromethyl)phenyl)-4-(trifluoromethylsulfinyl)-1H-pyrazole-3-carbonitrile (110 g, 73%) as yellow solid.

reactant | 5-amino-1-(2-chloro-6-fluoro-4-(trifluoromethyl)phenyl)-4-(trifluoromethylsulfinyl)-1H-pyrazole-3-carbonitrile | 310.3 mmol, 130 g, 1.00 eq. | NC1=C(C(=NN1C1=C(C=C(C=C1F)C(F)(F)F)Cl)C#N)S(=O)C(F)(F)F | C12H4ClF7N4OS
reactant | isoamyl nitrite | 930.8 mmol, 109 g, 3.00 eq. | N(=O)OCCC(C)C | C5H11NO2
reactant | CHBr3 | 520 mL | C(Br)(Br)Br | CHBr3
product | 5-bromo-1-(2-chloro-6-fluoro-4-(trifluoromethyl)phenyl)-4-(trifluoromethylsulfinyl)-1H-pyrazole-3-carbonitrile | 110 g, 73% | BrC1=C(C(=NN1C1=C(C=C(C=C1F)C(F)(F)F)Cl)C#N)S(=O)C(F)(F)F | C12H2BrClF7N3OS
